US06727232B2
16-((R)-{[(3R,4S,5R)-5-(Aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{(2S,3S,4R,5R)-5-[2,4-dioxo-3,4-di hydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-15-pentyl-3,5,8,11,15-pentaazaheptadecane-1,17-dioic Acid
The title compound is prepared by the procedure of Example 8, using 56.8 mg (60 μmol) of 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic acid (λmax nm in water=259) in 3.0 ml of methanol, 300 μl of pyridine, 300 μl of 2,4-pentanedione, 15 mg montmorillonite K-10, 18 μl of pentanal and 180 μmol of sodium triacetoxyborohydride to give 21 mg of the desired product.

reactant | 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic acid | 60 μmol, 56.8 mg | NCC1C(C(C(O1)OC(C(NCCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)C(=O)O)C1OC(C(C1O)O)N1C(NC(C=C1)=O)=O)OC)O | C38H63N11O17
reactant | montmorillonite K-10 | 15 mg | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | pentanal | 18 μl | C(CCCC)=O | C5H10O
reactant | sodium triacetoxyborohydride | 180 μmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 3.0 ml | CO | CH4O
solvent | pyridine | 300 μl | N1=CC=CC=C1 | C5H5N
solvent | 2,4-pentanedione | 300 μl | CC(CC(C)=O)=O | C5H8O2
product | 16-((R)-{[(3R,4S,5R)-5-(Aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{(2S,3S,4R,5R)-5-[2,4-dioxo-3,4-di hydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-15-pentyl-3,5,8,11,15-pentaazaheptadecane-1,17-dioic Acid | 21 mg | NC[C@@H]1[C@@H]([C@H](C(O1)O[C@H](C(N(CCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)CCCCC)C(=O)O)[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C(NC(C=C1)=O)=O)OC)O | C43H73N11O17
